US08039463B2
4-Amino-N-methyl-benzamide (40 g, 0.3 mol) was added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (100 mg, 0.3 mmol) and DIC (50 mg, 0.4 mmol) in THF (2 mL) and the mixture was stirred overnight. The resulting precipitate was filtered and extracted with ethyl acetate. The organic layer was washed with brine solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography using basic alumina (methanol in chloroform) to afford 56 mg (40%) of N-methyl-4-{3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionylamino}-benzamide. LCMS: 477.17 (M+1)+, 94.5%, 1H NMR: (DMSO-d6): δ 7.8 (m, 2H), 7.6 (m, 4H), 7.4 (m, 1H), 4.0 (m, 2H), 3.8 (m, 4H), 3.6 (m, 3H), 3.2 (m, 2H), 3.0 (d, 3H).

reactant | 4-Amino-N-methyl-benzamide | 0.3 mol, 40 g | NC1=CC=C(C(=O)NC)C=C1 | C8H10N2O
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 0.3 mmol, 100 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | DIC | 0.4 mmol, 50 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-methyl-4-{3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionylamino}-benzamide | 56 mg, 40% | CNC(C1=CC=C(C=C1)NC(CC(N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O)=O | C23H23F3N4O4
